US04032605
2-Chlorobutyryl m-chlorobenzoyl peroxide
To 6.4 g. (0.06 moles) anhydrous sodium carbonate in 60 cc. H2O was added 10.2 g. (0.05 moles) of m-chloroperbenzoic acid of 84.35% purity. The stirred mixture was chilled to -2° C. and 8.5 g. (0.06 moles) 2-chlorobutyryl chloride in 30 cc. chloroform was added over 17 minutes. After a total reaction time of 60 minutes, the reaction was worked up as in Example I and gave 15.2 g. product. Product A.O. analysis: theory, 5.77; found, 5.15; 89.30% pure; 97.7% yield.

reactant | sodium carbonate | 0.06 moles | C([O-])([O-])=O.[Na+].[Na+]
reactant | H2O | O | H2O
reactant | m-chloroperbenzoic acid | 0.05 moles | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-chlorobutyryl chloride | 0.06 moles | ClC(C(=O)Cl)CC | C4H6Cl2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Chlorobutyryl m-chlorobenzoyl peroxide | 97.7% yield | ClC=1C=C(C(=O)OOC(C(CC)Cl)=O)C=CC1 | C11H10Cl2O4
